US05530138
N-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethyl]-2-nitroaniline
The procedures described in Example 12 were repeated except that 1-chloro-2-nitrobenzene (2.04 g, 12.9 mmol) and 5-(2-aminoethyl)-1-azabicyclo[3.3.0]octane (4.00 g, 25.9 mmol) were employed. In this case, the desired compound was obtained as a orange liquid (3.32 g, 98.54%).

reactant | 1-chloro-2-nitrobenzene | 12.9 mmol, 2.04 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | 5-(2-aminoethyl)-1-azabicyclo[3.3.0]octane | 25.9 mmol, 4.00 g | NCCC12CCCN2CCC1 | C9H18N2
product | N-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethyl]-2-nitroaniline | N12CCCC2(CCC1)CCNC1=C(C=CC=C1)[N+](=O)[O-] | C15H21N3O2
